US07655666B2
N-[7-Difluoromethyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of 2-amino-4-difluoromethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (200 mg, 0.71 mmol) in DCM (15 mL), was added (CCl3O)2CO (151 mg, 0.7 equiv). The resulting mixture was stirred at r.t. for 1 h. The solvent was removed in vacuo and the residue was solubilized in THF. CH3SO2NHNH2 (86 mg, 1.1 equiv) was added and, after stirring at r.t. for 1 h, the mixture was treated with aq NaOH (1N, 0.78 mL) for 30 min. The solvent was removed in vacuo and water was added. The pH was adjusted to 3-4 by addition of 1N aq HCl. The aqueous phase was extracted with AcOEt (2×). The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a crude solid. This solid was triturated in 15 mL of DCM/hexanes (1/1). The resulting solid was filtered off, washed with hexanes and dried to afford the title compound as an off-white solid (150 mg, 55%). ES-MS: m/z 386.3 [M+H]+, rt 4.16 min. 1H-NMR (DMSO-d6, 400 MHz) 12.04 (s, 1H), 10.34 (s, 1H); 7.93 (s, 1H); 7.55 (s, 1H); 7.52 (s, 1H); 6.83 (t, 1H, J=54 Hz), 6.34 (s, 1H). 3.62 (s, 3H); 3.17 (s, 1H)

reactant | 2-amino-4-difluoromethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 0.71 mmol, 200 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(F)F)N)=O | C13H13F2N3O2
reactant | CH3SO2NHNH2 | 86 mg, 1.1 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 0.78 mL | [OH-].[Na+]
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[7-Difluoromethyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 150 mg, 55% | FC(C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C)F | C14H13F2N5O4S
